US05104888
6-Acetoxy-2-(4-aminophenoxymethyl)-2-hydroxy-5,7,8-trimethylchroman-4-one (Step H2)
Following the same procedure as described in Preparation 24, 7 g of 6-acetoxy-2-hydroxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one (prepared as described in Preparation 43) were treated with 5 g of 10% w/w palladium-on-carbon, 100 ml of tetrahydrofuran and 100 ml of ethanol, to give the title compound.

reactant | 6-acetoxy-2-hydroxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one | 7 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])O)=O)C | C21H21NO8
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-Acetoxy-2-(4-aminophenoxymethyl)-2-hydroxy-5,7,8-trimethylchroman-4-one | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(O)COC1=CC=C(C=C1)N)=O)C | C21H23NO6
